US07524875B2
To 222 g (1.0 mol) of 4-(benzyloxymethyl)-2,2-dimethyl-1,3-dioxolane was added 400 g of distilled water, and the whole was adjusted to pH 2 with phosphoric acid. With introduction of nitrogen thereinto, the solution was heated to 70° C. After 2 hours of reaction, the solution was adjusted to pH 7.0 with sodium hydroxide. Thereto was charged 1 L of chloroform and extraction was carried out. Then, the chloroform layer was dried over magnesium sulfate and concentrated. Thereafter, the concentrate was filtrated to remove salts, and thereby 3-benzyloxy-1,2-propanediol was obtained. The NMR data thereof are the same as those in Example 1-2.

reactant | 4-(benzyloxymethyl)-2,2-dimethyl-1,3-dioxolane | 1.0 mol, 222 g | C(C1=CC=CC=C1)OCC1OC(OC1)(C)C | C13H18O3
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 400 g | O | H2O
product | 3-benzyloxy-1,2-propanediol | C(C1=CC=CC=C1)OCC(CO)O | C10H14O3
